US07494964B2
A solution of 8.71 g (150 mmol) of dry acetone in 100 ml of absolute tetrahydrofuran is added under argon to a solution of 20.42 g (300 mmol) of sodium ethoxide in 300 ml of absolute tetrahydrofuran. A solution of 22.68 g (150 mmol) of ethyl pyridine-2-carboxylate in 100 ml of absolute tetrahydrofuran is subsequently added dropwise over the course of 20 minutes. The mixture is stirred for 15 hours at room temperature and for 4 hours at the boiling point. The mixture is evaporated on a rotary evaporator, admixed with 150 ml of water and rendered neutral with glacial acetic acid. It is extracted twice with diethyl ether, the organic extracts are combined and dried (sodium sulfate), evaporated on a rotary evaporator, and 1-pyridin-2-ylbutane-1,3-dione is obtained as an orange oil. 1H-NMR (360 MHz, CDCl3) for enol tautomer: 15.8-15.5 (br s, OH); 8.60-8.55 (dm, 1H); 8.20-7.95 (dm, 1H); 7.79-7.71 (tm, 1H); 7.35-7.29 (m, 1H); 6.74 (s, 1H); 2.15 (s, 3H). Keto tautomer: CH2 group at 4.20 ppm (ratio of enol/keto form=87:13).

reactant | acetone | 150 mmol, 8.71 g | CC(=O)C | C3H6O
reactant | sodium ethoxide | 300 mmol, 20.42 g | [O-]CC.[Na+]
reactant | ethyl pyridine-2-carboxylate | 150 mmol, 22.68 g | N1=C(C=CC=C1)C(=O)OCC | C8H9NO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-pyridin-2-ylbutane-1,3-dione | N1=C(C=CC=C1)C(CC(C)=O)=O | C9H9NO2
